US04714713
L-phenylalanine (13.2 g, 0.080 mole) and 6N NaOH (43 ml, 0.086 mole) were dissolced in a solvent prepared by mixing water (77 ml) with acetone (240 ml). To the mixture, while cooling to less than 10° C., the acetone solution of α-fluoro-4-methyl cinnamic acid chloride prepared as above and 2N NaOH (38 ml, 0.076 mole) were alternately added over 20 minutes. Next, the mixture was stirred at normal temperature for 30 minutes, and the reaction solution was made acidic by the addition of 2N HCl. Then, water (200 ml) was gradually added thereto. The thus precipitated crystals were recovered by filtration and dried to give crude crystals (16.7 g). The crude crystals were recrystallized from a mixture of methanol and water to obtain N-(α-fluoro-4-methylcinnamoyl)-L-phenylalanine (yield 15.5 g) in the form of white needle-like crystals having a melting point of 163° to 163.5° C.

reactant | L-phenylalanine | 0.080 mole, 13.2 g | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | NaOH | 0.086 mole, 6N, 43 ml | [OH-].[Na+]
reactant | α-fluoro-4-methyl cinnamic acid chloride | FC(C(=O)Cl)=CC1=CC=C(C=C1)C | C10H8ClFO
reactant | NaOH | 0.076 mole, 2N, 38 ml | [OH-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | water | 200 ml | O | H2O
solvent | acetone | CC(=O)C | C3H6O
solvent | acetone | 240 ml | CC(=O)C | C3H6O
solvent | water | 77 ml | O | H2O
product | N-(α-fluoro-4-methylcinnamoyl)-L-phenylalanine | yield 15.5 g | FC(C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O)=CC1=CC=C(C=C1)C | C19H18FNO3
